### PR TITLE
O_w is finite over O_v

### PR DESCRIPTION
**Pull request by matthewjasper**
Part of #231 so that we can apply [Ideal.sum_ramification_inertia](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/RamificationInertia/Basic.html#Ideal.sum_ramification_inertia) to completions.

I would prefer an approach less entangled with the rest of the base change stuff, but I think that those would be very large projects. Also it's rather slow to compile.

### CODE REVIEW

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 1]
```diff
@@ -551,35 +528,32 @@ instance : IsModuleTopology (adicCompletion K v) (L ⊗[K] adicCompletion K v) :
...
-    L ⊗[K] v.adicCompletion K ≃ₐ[v.adicCompletion K] (∀ w : v.Extension B, w.1.adicCompletion L)
-  where
-    __ := adicCompletionComapAlgEquiv A K L B v
-    commutes' r := by
-      have hmap : (algebraMap (v.adicCompletion K) (L ⊗[K] v.adicCompletion K)) r = 1 ⊗ₜ r :=
-        rfl
-      simp [hmap, adicCompletionComapAlgEquiv,
-        tensorAdicCompletionComapAlgHom, SemialgHom.algebraMap_apply]
+omit [IsIntegralClosure B A L] [Algebra.IsSeparable K L] in
+lemma tensorAdicCompletionComapLinearMap_continuous (v : HeightOneSpectrum A) :
```
Comment (matthewjasper) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:532]: This and the next lemma should probably be combined

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 2]
```diff
@@ -785,9 +779,210 @@ theorem adicCompletionComapAlgEquiv_integral :
...
+  rfl
+
+variable {v} in
+noncomputable def comap_int_ext_algebra {w : HeightOneSpectrum B} (hvw : comap A w = v) :=
+  letI := comap_algebra A K L B hvw
+  RingHom.toAlgebra <| (algebraMap (adicCompletion K v) (adicCompletion L w)).comp
+    (algebraMap (adicCompletionIntegers K v) (adicCompletion K v))
+
+attribute [local instance] Algebra.TensorProduct.rightAlgebra in
+noncomputable def h : (B ⊗[A] adicCompletionIntegers K v) →ₗ[adicCompletionIntegers K v]
```
Comment (matthewjasper) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:823]: I'll give this a real name...

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 3]
```diff
@@ -785,9 +779,210 @@ theorem adicCompletionComapAlgEquiv_integral :
...
+  letI := comap_int_algebra A K L B hvw
+  letI := comap_algebra A K L B hvw
+  letI := RingHom.toAlgebra <| (algebraMap (adicCompletion K v) (adicCompletion L w)).comp
+      (algebraMap (adicCompletionIntegers K v) (adicCompletion K v))
+  have : IsScalarTower (adicCompletionIntegers K v) (adicCompletion K v)
+      (adicCompletion L w) := by
+    apply IsScalarTower.of_algebraMap_smul fun _ _ ↦ rfl
+
+  let f := adicCompletionComapIntLinearMap A K L B v w hvw
+  let integerSubmodule : Submodule (adicCompletionIntegers K v) (adicCompletion L w) := {
```
Comment (matthewjasper) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:910]: I couldn't find anything helpful here in Mathlib

Comment (matthewjasper) [reply FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean]: I've moved this to `FLT/Mathlib/Algebra/Module/Submodule/Basic.lean`, but still can't find it in Mathlib (note: I want the carrier to be def-eq to the subring because it makes things easier to prove, so something defined in terms of ranges isn't helpful)

**Comment by matthewjasper** [comment]
https://github.com/ImperialCollegeLondon/FLT/commit/b0597f62a9be2538ebebdae96d31176d8c46259e fills out some more of this to give some context

**Comment by pitmonticone** [comment]
Thanks @matthewjasper! 

Could you please update this branch by merging `main`?

File: FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean [hunk 4]
```diff
@@ -785,9 +751,200 @@ theorem adicCompletionComapAlgEquiv_integral :
...
+  have hsurj := tensorAdicCompletionComapLinearMap_surjective A K L B v
+  refine ⟨?_, hsurj⟩
+  -- ⊢ Function.Injective ⇑(tensorAdicCompletionComapLinearMap_completion A K L B v)
+  -- issue FLT#231; one proof is proof in blueprint at
+  -- https://imperialcollegelondon.github.io/FLT/blueprint/Adele_miniproject.html#IsDedekindDomain.HeightOneSpectrum.adicCompletionComapAlgEquiv
+  -- and another one might be deduce injectivity from a dimension count.
+  -- For that we'd need that local and global e's and f's match up
+  -- (e's we have and f's won't be so hard), and then the statement
+  -- that the local extension is e*f (I don't know what generality this is true in,
+  -- maybe it's a general phenomenon for nonarch normed fields?
```
Comment (kbuzzard) [inline FLT/DedekindDomain/FiniteAdeleRing/BaseChange.lean:919]:
```suggestion
  -- that the local extension is e*f (in general e * f <= degree (Prop 3.1.3.2 of BGR)
  -- and equality holds for L/K if L is K-cartesian (Prop 3.6.2.4) so for example if K
  -- is complete and discretely-valued (Cor 2.4.3.11). 
```

File: FLT/Mathlib/Topology/Algebra/Module/ModuleTopology.lean [hunk 5]
```diff
@@ -400,3 +401,32 @@ def continuousAlgEquivOfAlgEquiv {A B R : Type*} [TopologicalSpace A]
...
+  simp [map_eq_zero_iff g DFunLike.coe_injective,
+    map_eq_zero_iff f (Module.Free.repr R M).injective]
+
+/-- A vector space with the module topology over a `T2Space` ring is a `T2Space`.
+-/
+theorem t2Space' {K V : Type*} [Field K] [AddCommGroup V] [Module K V]
+    [TopologicalSpace K] [TopologicalSpace V] [T2Space K]
+    [ContinuousAdd K] [ContinuousMul K] [mt : IsModuleTopology K V]
+    : T2Space V := by
+  apply t2Space (R:=K)
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/Module/ModuleTopology.lean:432]:
```suggestion
  apply t2Space (R := K)
```

**Comment by kbuzzard** [comment]
Thanks! I wonder if `DedekindDomain/FiniteAdeleRing/Basic.lean` needs splitting? I added some spaces and edited a comment (I found the full story of ef=n in Bosch-Guentzer-Remmert).

**Comment by matthewjasper** [comment]
Most of what's in `BaseChange.lean` right now isn't about adeles and should be split into its own file. It's going to be about 1200 lines once I've finished the local base change work.
